US07595397B2
(4-Bromo-phenyl)-(2-phenyl-morpholin-4-yl)-methanone
5 g of p-Bromobenzoic acid, 4.966 g 3-Phenylmorpholine HCl, 5.245 g EDC, 3.696 g HOBt and 4.766 mL Hunig's Base in 25 mL DMF was stirred at room temperature overnight. The reaction was diluted with water and extracted with ethyl acetate. The organic layers were combined, washed with 1N HCl, aqueous saturated sodium bicarbonate solution and brine. The organics were concentrated in vacuo and purified by flash chromatography to afford product. Wt: 1.335 g, 77% yield. ES MS m/z 346/348

reactant | p-Bromobenzoic acid | 5 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | 3-Phenylmorpholine HCl | 4.966 g | Cl.C1(=CC=CC=C1)C1NCCOC1
reactant | HOBt | 3.696 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hunig's Base | 4.766 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EDC | 5.245 g
product | (4-Bromo-phenyl)-(2-phenyl-morpholin-4-yl)-methanone | 77% yield | BrC1=CC=C(C=C1)C(=O)N1CC(OCC1)C1=CC=CC=C1 | C17H16BrNO2
